US08486979B2
5-(1-methyl-1H-benzo[d]imidazol-5-yl)-3-(pyridin-3-yl)-1,2,4-oxadiazole
The title compound was prepared according to Method C using 1-methyl-1H-benzo[d]imidazole-5-carboxylic acid (Maybridge) and N′-hydroxynicotinimidamide (Tyger). 1H NMR (300 MHz, DMSO-d6) δ7.65 (ddd, J=8.0, 4.9, 0.7 Hz, 1 H), 7.68-7.88 (m, J=8.8 Hz, 1 H), 7.87-8.10 (m, 2 H), 8.14-8.37 (m, 1 H), 8.46 (dt, J=8.1, 1.9 Hz, 1 H), 8.82 (dd, J=4.7, 1.7 Hz, 1 H), 9.27 (dd, J=2.0, 0.7 Hz, 1 H) ppm; MS (DCI/NH3) m/z 278 (M+H)+.

reactant | 1-methyl-1H-benzo[d]imidazole-5-carboxylic acid | CN1C=NC2=C1C=CC(=C2)C(=O)O | C9H8N2O2
reactant | N′-hydroxynicotinimidamide | ON=C(C1=CN=CC=C1)N | C6H7N3O
reactant | NH3 | N | H3N
product | 5-(1-methyl-1H-benzo[d]imidazol-5-yl)-3-(pyridin-3-yl)-1,2,4-oxadiazole | CN1C=NC2=C1C=CC(=C2)C2=NC(=NO2)C=2C=NC=CC2 | C15H11N5O
